US03957761
In the manner given in Example 13, 5-chloro-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone is reacted with the above suspension, then neutralized with sodium bicarbonate to give 5-chloro-2-[3-[(diethylamino)-methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-chloro-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H15ClN4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-chloro-2-[3-[(diethylamino)-methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN(CC)CC | C29H26ClN5O3
